US05968939
7-[[(1,1-dimethylethyl)diphenylsilyl]oxy]-8-methyl-4-(4-methyl-1-piperazinyl)-2H-1-benzopyran-2-one
1.25 ml of N-methyl piperazine is added to a solution containing 2.53 g of 7-[[(1,1-dimethylethyl)diphenylsilyl]oxy]-8-methyl-4-[[(trifluoromethyl)sulphony]oxy]-2H-1-benzopyran-2-one and 22 ml of THF. The reaction medium is maintained under agitation for 1 hour, poured into a 1M aqueous solution of sodium acid phosphate, and extraction is carried out with ethyl acetate. The organic phases are combined, washed, dried and concentrated under reduced pressure. Chromatography is carried out on silica eluting with a methanol-methylene chloride mixture (6-94). 2.31 g of sought product is isolated. rf=0.3.

reactant | N-methyl piperazine | 1.25 ml | CN1CCNCC1 | C5H12N2
reactant | 7-[[(1,1-dimethylethyl)diphenylsilyl]oxy]-8-methyl-4-[[(trifluoromethyl)sulphony]oxy]-2H-1-benzopyran-2-one | 2.53 g | CC(C)(C)[Si](OC1=C(C2=C(C(=CC(O2)=O)OS(=O)(=O)C(F)(F)F)C=C1)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H25F3O6SSi
reactant | THF | 22 ml | C1CCOC1 | C4H8O
reactant | sodium acid phosphate | OP(=O)(O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[[(1,1-dimethylethyl)diphenylsilyl]oxy]-8-methyl-4-(4-methyl-1-piperazinyl)-2H-1-benzopyran-2-one | 2.31 g | CC(C)(C)[Si](OC1=C(C2=C(C(=CC(O2)=O)N2CCN(CC2)C)C=C1)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H36N2O3Si
